US04921867
N-[6-[3-[[6-[[2-(4-Amino-3,5-dichlorophenyl)-2-hydroxyethyl]amino]hexyl]oxy]propyl]-3-pyridinyl]acetamide
A solution of N-[6-[3-[[6-[[2-(4-amino-3,5-dichlorophenyl)-2-hydroxyethyl](phenylmethyl)amino]hexyl]oxy]-1-propynyl]-3-pyridinyl]acetamide (1 g) was hydrogenated over palladium oxide on carbon (50% aqueous paste, 1 g) in ethanol (50 ml) containing hydrochloric acid for 24 h. The catalyst was removed by filtration through hyflo, the solvent was evaporated and the residual oil was partitioned between 8% sodium bicarbonate solution (150 ml) and ethyl acetate (150 ml). The combined organic extracts were dried and concentrated to give an oil. Purification by FCC eluting with System A (95:5:1) gave an oil which was triturated under ether (50 ml) to give the title compound as a white solid (250 mg) m.p. 66°-67°.

reactant | N-[6-[3-[[6-[[2-(4-amino-3,5-dichlorophenyl)-2-hydroxyethyl](phenylmethyl)amino]hexyl]oxy]-1-propynyl]-3-pyridinyl]acetamide | 1 g | NC1=C(C=C(C=C1Cl)C(CN(CCCCCCOCC#CC1=CC=C(C=N1)NC(C)=O)CC1=CC=CC=C1)O)Cl | C31H36Cl2N4O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium oxide | [Pd]=O
product | N-[6-[3-[[6-[[2-(4-Amino-3,5-dichlorophenyl)-2-hydroxyethyl]amino]hexyl]oxy]propyl]-3-pyridinyl]acetamide | 250 mg | NC1=C(C=C(C=C1Cl)C(CNCCCCCCOCCCC1=CC=C(C=N1)NC(C)=O)O)Cl | C24H34Cl2N4O3
